US06451810B1
Under a nitrogen atmosphere, a mixture of 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.125 g, 0.49 mmol) and anhydrous pyridine (40 mL) was warmed with a heat gun to dissolve the solid. The resulting solution was allowed to cool to ambient temperature. A solution of 2-phenoxybenzoyl chloride (0.11 g, 0.47 mmol) in pyridine (5 mL) was added. The reaction mixture was maintained at ambient temperature for 18 hours and then concentrated under vacuum. The resulting solid residue was purified by flash chromatography (silica gel eluting with 9:1 dichloromethane:methanol) to provide 0.12 g of N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxybenzamide as a white solid, m.p. 93-94° C. 1H NMR (500 MHz, DMSO-d6) δ8.23 (t, J=6.0 Hz, 1H), 8.14 (s, 1H), 8.00 (d, J=8.0 Hz, 1H), 7.62 (d, J=8.0 Hz, 1H), 7.54 (dd, J=8.0, 1.5 Hz, 1H), 7.43 (dt, J=8.0, 1.5 Hz, 1H), 7.42 (dt, J=8.0, 1.5 Hz, 1H), 7.30 (t, J=8.0 Hz, 2H), 7.22 (t, J=8.0 Hz, 1H), 7.18 (t, J=8.0 Hz, 1H), 7.07 (t, J=8.0 Hz, 1H), 6.89 (m, 3H), 6.59 (broad s, 2H), 4.55 (t, J=7.0 Hz, 2H), 3.23 (q, J=6.0 Hz, 2H), 1.81 (quintet, J=7.0 Hz, 2H), 1.47 (quintet, J=7.0 Hz, 2H); MS (EI) m/e 451.2004 (451.2008 calcd for C27H25N5O2).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.49 mmol, 0.125 g | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2-phenoxybenzoyl chloride | 0.47 mmol, 0.11 g | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-phenoxybenzamide | 0.12 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=C(C=CC=C2)OC2=CC=CC=C2)=O | C27H25N5O2
